US05254595
A mixture of 1-aminotetralin (5.15 g) and 1-[1-(p-toluenesulfonyl)indol-4-yloxy]-2,3-epoxypropane (12 g) in absolute ethanol (150 ml) is refluxed for 6 hours. The solvent is then evaporated off and the oily residue is dissolved in absolute ethanol (100 ml). A solution of sodium hydroxide (7.5 g) in water (30 ml) is added thereto. The obtained reaction mixture is refluxed for 6 hours and then evaporated under reduced pressure. The residue which is obtained is then dissolved in ethyl acetate (150 ml), the organic solution is thoroughly washed with water, dried over sodium sulfate, and filtered. Ethyl acetate is then evaporated off and the obtained oily residue is chromatographed on a silica gel column eluting with a mixture ethyl acetate/cyclohexane 7/3 v/v. The combined fractions are evaporated to dryness, the oily residue is taken up in a very small amount of ethyl ether which is then removed under vacuum yielding 1.5 g of N-(1,2,3,4-tetrahydronaphth-l-yl)-2-hydroxy-3-(4-indolyloxy)propanamine, as a vitreous solid.

reactant | 1-aminotetralin | 5.15 g | NC1CCCC2=CC=CC=C12 | C10H13N
reactant | 1-[1-(p-toluenesulfonyl)indol-4-yloxy]-2,3-epoxypropane | 12 g | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OCC1CO1)C | C18H17NO4S
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-(1,2,3,4-tetrahydronaphth-l-yl)-2-hydroxy-3-(4-indolyloxy)propanamine | 1.5 g | C1(CCCC2=CC=CC=C12)NCC(COC1=C2C=CNC2=CC=C1)O | C21H24N2O2
